US07842685B2
To a slurry of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(tetrahydro-2H-pyran-4-yl)vinyl)thiazolo[5,4-b]pyridine (0.201 g, 0.471 mmol) in 2.5 mL THF was added a solution of trimethylsulfoxonium iodide (0.207 g, 0.943 mmol) and potassium tert-butoxide (0.106 g, 0.943 mmol) in 2.5 mL DMSO. The yellow slurry was sealed and heated to 60° C. After 6 h, the reaction mixture was cooled, quenched with ice and sat'd aq. NH4Cl. The reaction mixture was partitioned between satd aq NH4Cl and DCM. The aqueous layer was extracted with DCM 3 times, and the combined organics were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The material was purified by silica gel chromatography, 0-50% EA/hexanes, to give 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(tetrahydro-2H-pyran-4-yl)cyclopropyl)thiazolo[5,4-b]pyridine as a solid. MS (ESI) m/z: Calculated: 440.2; Observed: 441.1 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(tetrahydro-2H-pyran-4-yl)vinyl)thiazolo[5,4-b]pyridine | 0.471 mmol, 0.201 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(=C)C1CCOCC1)F | C23H23FN2O3S
reactant | trimethylsulfoxonium iodide | 0.943 mmol, 0.207 g | [I-].C[S+](=O)(C)C
reactant | potassium tert-butoxide | 0.943 mmol, 0.106 g | CC(C)([O-])C.[K+]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(tetrahydro-2H-pyran-4-yl)cyclopropyl)thiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1CCOCC1)F | C24H25FN2O3S
